US04434175
Two grams of ethyl-1,4-dimethyl-3-ethoxycarbonyl-5-nicotinoylpyrrole-2-acetate (6 mmole) is heated to reflux with 10 ml of 20% aqueous sodium hydroxide solution for two hours. The reaction mixture is cooled to room temp. and acidified to pH 1 with 6 N HCl. The resulting white precipitate is filtered, washed with cold water and dried at room temperature to give crude 1,4-dimethyl-3-hydroxycarbonyl-5-nicotinoylpyrrole-2-acetic acid which is used in the next step without further purification.

reactant | ethyl-1,4-dimethyl-3-ethoxycarbonyl-5-nicotinoylpyrrole-2-acetate | 6 mmole, Two grams | C(C)OC(CC=1N(C(=C(C1C(=O)OCC)C)C(C1=CN=CC=C1)=O)C)=O | C19H22N2O5
reactant | HCl | 6 N | Cl | ClH
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 1,4-dimethyl-3-hydroxycarbonyl-5-nicotinoylpyrrole-2-acetic acid | CN1C(=C(C(=C1C(C1=CN=CC=C1)=O)C)C(=O)O)CC(=O)O | C15H14N2O5
